US04945100
2-(2,4-dichlorophenyl)-2-propoxybutan-1-ol
8.68 g (0.04 mole) of 2-(2,4-dichlorophenyl)-1,2-epoxybutane of 95% purity are dissolved in 12 g (0.2 mole) of n-propanol, and a solution of 5.68 g (0.04 mole) of boron trifluoride-etherate in 12 g (0.2 mole) of n-propanol is added dropwise at 20° C. After 24 hours, the mixture is extracted with chloroform, the solvent is removed on a rotary evaporator and the residue is purified by column chromatography using silica gel. The yield is 5.41 g (48.8%) of a colourless oil. 60 MHz-1H-NMR (DCCl3): δ=7.0-7.6 ppm (m, 3H, aromatic); 3.7-4.4 ppm (m, 2H, CH2OH); 3.3 ppm (t, 2H, OCH2CH2 --); 1.4-2.6 (m, 5H, 2×CH2, OH); 0.5-1.3 ppm (m, 6H, 2×CH3).

reactant | 2-(2,4-dichlorophenyl)-1,2-epoxybutane | 0.04 mole, 8.68 g | ClC1=C(C=CC(=C1)Cl)C1(CO1)CC | C10H10Cl2O
reactant | n-propanol | 0.2 mole, 12 g | C(CC)O | C3H8O
reactant | boron trifluoride-etherate | 0.04 mole, 5.68 g | B(F)(F)F.CCOCC
reactant | n-propanol | 0.2 mole, 12 g | C(CC)O | C3H8O
product | 2-(2,4-dichlorophenyl)-2-propoxybutan-1-ol | ClC1=C(C=CC(=C1)Cl)C(CO)(CC)OCCC | C13H18Cl2O2
